US05543520
In accordance with the general procedure described in Example 1, reaction of 10 g (0.055 mol) of 3-dimethylamino-(3-thienyl)-2-propen-1-one [described in EP-A-0 233 461] and 15 g (0.060 mol) of 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate gives N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(3-thienyl)-2-pyrimidine-amine; FAB-MS:370 (M+ +1), m.p. 110°-111°, Rf =0.8 (ethyl acetate:hexane=1:1).

reactant | 3-dimethylamino-(3-thienyl)-2-propen-1-one | 0.055 mol, 10 g | CN(C=CC(=O)C1=CSC=C1)C | C9H11NOS
reactant | 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate | 0.060 mol, 15 g | [N+](=O)(O)[O-].FC(C(F)F)(OC=1C=C(C=CC1)NC(=N)N)F
product | N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(3-thienyl)-2-pyrimidine-amine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CSC=C1)F | C16H11F4N3OS
